US05359054
21.6 g (42.6 mmol) of 3,3; 17,17-bis- (ethylenedioxy) -11-trifluoromethylsulfonyloxy-5,9(11)-estradiene is disson, red in a mixture of 360 ml of toluene and 170 ml of ethanol and mixed in succession with 2.5 g of palladiumtetrakistriphenylphosphine, 3.6 g of lithium chloride, 55 ml of 2 m sodium carbonate solution and 7.2 g (46.8 mmol) of 4-methoxyphenyl boronic acid. The reaction mixture is then stirred for 2 hours at 95° C. cooled to room temperature and mixed with saturated sodium chloride solution. The organic phase is separated, washed in succession with 5% sodium hydroxide solution and water, dried on sodium sulfate and concentrated by evaporation in a vacuum. The residue is chromatographed on silica gel with a mixture of ethyl acetate/hexane. 19.2 g of 3,3;17,17-bis-(ethylenedioxy)11-(4-methoxyphenyl)-5,9(11)-estradiene is obtained as white foam.

reactant | 17,17-bis- (ethylenedioxy) -11-trifluoromethylsulfonyloxy-5,9(11)-estradiene | C1OC23[C@]4(C)[C@@H](CC2(OCCO3)OC1)[C@@H]1CC=C3CCCC[C@@H]3C1=C(C4)OS(=O)(=O)C(F)(F)F | C23H29F3O7S
reactant | lithium chloride | 3.6 g | [Cl-].[Li+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-methoxyphenyl boronic acid | 46.8 mmol, 7.2 g | COC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | sodium chloride | [Cl-].[Na+]
solvent | toluene | 360 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 170 ml | C(C)O | C2H6O
product | 17,17-bis-(ethylenedioxy)11-(4-methoxyphenyl)-5,9(11)-estradiene | C1OC23[C@]4(C)[C@@H](CC2(OCCO3)OC1)[C@@H]1CC=C3CCCC[C@@H]3C1=C(C4)C4=CC=C(C=C4)OC | C29H36O5
